Lossless Transmission Line
*SPICE Netlist generated by Advanced Sim server on 11/06/2002 6:37:21 PM

*Schematic Netlist:
TLLTR1 IN 0 OUT 0 Z0=50 TD=20NS
R1 OUT 0 55
V1 IN 0 DC 0 PULSE(0 5 0 2n 2n 20n 50n 0) AC 1 0

.SAVE 0 IN OUT V1#branch @V1[z] @R1[i] @R1[p] @TLLTR1[p] @V1[p]

*PLOT TRAN -1 1 A=IN A=OUT
*PLOT OP -1 1 A=IN A=OUT

*Selected Circuit Analyses:
.TRAN 1E-9 2.5E-7 0 1E-9
.OP

.END
