Mathematical Function
*SPICE Netlist generated by Advanced Sim server on 11/06/2002 6:08:04 PM

*Schematic Netlist:
XM1 IN A UNARYV
XM2 IN B ATANHV
XM3 A B OUT ADDV
R1 IN 0 1k
R2 OUT 0 1k
V1 IN 0 DC 0 SIN(0 1 1k 0 0 0) AC 1 0

.SAVE 0 A B IN OUT V1#branch @V1[z]

*PLOT TRAN -1 1 A=A A=B A=IN A=OUT

*Selected Circuit Analyses:
.TRAN 2E-5 0.005 0 2E-5

*Models and Subcircuit:
.SUBCKT UNARYV 1 2
BX 2 0 V=-(V(1))
.ENDS UNARYV

.SUBCKT ATANHV 1 2
BX 2 0 V=ATANH(V(1))
.ENDS ATANHV

.SUBCKT ADDV 1 2 3
BX 3 0 V=V(1)+V(2)
.ENDS ADDV

.END
