Simple RC
*SPICE Netlist generated by Advanced Sim server on 13/11/2002 5:13:22 PM

*Schematic Netlist:
C1 0 OUT 1u
R1 IN OUT 1K
V1 IN 0 DC 0 SIN(0 1 1K 0 0 0) AC 1 0

.SAVE 0 IN OUT V1#branch @V1[z] @C1[i] @R1[i] @C1[p] @R1[p] @V1[p]

*PLOT AC -1 1 A=IN
*PLOT PZ -1 1 A=IN

*Selected Circuit Analyses:
.AC DEC 10 1 1E8
.PZ IN 0 OUT 0 VOL PZ

.END
